US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-N-[1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-propionamide
2-Amino-N-[1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-propionamide was coupled with (3,5-Difluoro-phenyl)-acetic acid to provide the title compound: 1H NMR (400 MHz) 1.41 (d, 3H), 1.51 (s, 6H), 1.48 (s, 4H), 2.32 (s, 4H), 2.7 (s, 2H), 3.5 (s, 2H), 4.88-4.83 (m, 1H), 7.44 (d, 1H, J=1.4 Hz), 6.63-6.68 (m, 1H), 6.71-6.90 (M, 2h), 7.58 (d, 1H, J=1.7 Hz), 11.8 (brs, 1H) MS m/z 434.2 (M+1).

reactant | 2-Amino-N-[1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-propionamide | NC(C(=O)NC=1N=CN(C1)C(CN1CCCC1)(C)C)C | C14H25N5O
reactant | (3,5-Difluoro-phenyl)-acetic acid | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-N-[1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-propionamide | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)NC=1N=CN(C1)C(CN1CCCC1)(C)C)C | C22H29F2N5O2
